US07915281B2
mCPBA (1.7 g of 75% pure material) was added to a solution of 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridine (1.74 g, 4.31 mmol) in dichloromethane (50 mL). The reaction was stirred at room temperature for 30 minutes; an analysis by TLC then indicated the presence of starting material. Additional mCPBA (0.25 g of 75%) was added, and the reaction was stirred for another 30 minutes and found to be complete. The solvent was removed under reduced pressure, and the residue was triturated with diethyl ether and isolated by filtration to provide 1.64 g of 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine as a pale yellow solid.

reactant | mCPBA | 1.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridine | 4.31 mmol, 1.74 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C22H18FN5O2
reactant | mCPBA | 0.25 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine | 1.64 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=NC23)[O-])N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C22H18FN5O3
